US04556672
5-Chloro-3-acetyl-2-oxindole-1-carboxamide
A stirred slurry of 842 mg (4.0 mmole) of 5-chloro-2-oxindole-1-carboxamide and 1.08 g (8.8 mmole) of 4-(N,N-dimethylamino)pyridine in 15 ml of N,N-dimethylformamide was cooled to ice-bath temperature, and then a solution of 449 mg (4.4 mmole) of acetic anhydride in 5 ml of N,N-dimethylformamide was added dropwise. Stirring was continued for ca. 30 minutes, and then the reaction mixture was poured into a mixture of 75 ml of water and 3 ml of 3N hydrochloric acid. The resulting mixture was cooled in an ice-bath and the solid was recovered by filtration. The solid was recrystallized from acetic acid to give 600 mg of fluffy, pale pink crystals, m.p. 237.5° C. (dec.).

reactant | 5-chloro-2-oxindole-1-carboxamide | 4.0 mmole, 842 mg | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
reactant | acetic anhydride | 4.4 mmole, 449 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 75 ml | O | H2O
reactant | hydrochloric acid | 3N, 3 ml | Cl | ClH
catalyst | 4-(N,N-dimethylamino)pyridine | 8.8 mmole, 1.08 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-3-acetyl-2-oxindole-1-carboxamide | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(C)=O | C11H9ClN2O3
